US07015218B1
N-{3-Cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}-1-(2,4-difluorophenyl)-5-methylpyrazole-4-carboxamide
1-(2,4-Difluorophenyl)-5-methylpyrazole-4-carboxylic acid (2.4 g), 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile (2.4 g), 1-hydroxybenzotriazole (1.6 g) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (2.3 g) were added to dimethylformamide (25 ml) and the mixture was stirred at room temperature for 5 h. The reaction mixture was treated with aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase:chloroform:methanol=100:1). Diisopropyl ether was added to the obtained oily substance to allow crystallization. The crystals were recrystallized from isopropyl alcohol to give the title compound (2.4 g), melting point: 193–194° C.

reactant | 1-(2,4-Difluorophenyl)-5-methylpyrazole-4-carboxylic acid | 2.4 g | FC1=C(C=CC(=C1)F)N1N=CC(=C1C)C(=O)O | C11H8F2N2O2
reactant | 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile | 2.4 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCO | C13H18N4O
reactant | 1-hydroxybenzotriazole | 1.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 2.3 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-{3-Cyano-4-[4-(2-hydroxyethyl)piperazin-1-yl]phenyl}-1-(2,4-difluorophenyl)-5-methylpyrazole-4-carboxamide | 2.4 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)CCO)NC(=O)C=1C=NN(C1C)C1=C(C=C(C=C1)F)F | C24H24F2N6O2
